US05741792
A. [[4-(Aminomethyl)-1-piperidinyl]iminomethyl]carbamic acid, phenylmethyl ester
Sodium hydroxide (4.45 g, 111.25 mmole) was dissolved in 150 mL of deionized water. The mixture of [imino(1H-pyrazol-1-yl)methyl]carbamic acid, phenylmethyl ester, dihydrochloride salt and 4-aminomethyl piperidine, dihydrochloride salt (prepared above, 16.18 g, 44.54 mmole) was added (pH of the cloudy solution was 13) and the mixture was extracted with dichloromethane (1×200 mL and 2×100 mL). The organic layers were combined and washed with brine (1×200 mL), dried (MgSO4), filtered and concentrated in vacuo to provide the title compound as a white foam (12.29 g, 95%).

reactant | Sodium hydroxide | 111.25 mmole, 4.45 g | [OH-].[Na+]
reactant | [imino(1H-pyrazol-1-yl)methyl]carbamic acid, phenylmethyl ester, dihydrochloride salt | Cl.Cl.N=C(N1N=CC=C1)NC(OCC1=CC=CC=C1)=O
reactant | 4-aminomethyl piperidine, dihydrochloride salt | 44.54 mmole, 16.18 g | Cl.Cl.NCC1CCNCC1
solvent | water | 150 mL | O | H2O
product | [[4-(Aminomethyl)-1-piperidinyl]iminomethyl]carbamic acid, phenylmethyl ester | 12.29 g, 95% | NCC1CCN(CC1)N=CNC(OCC1=CC=CC=C1)=O | C15H22N4O2
